US04690936
Synthesis of N-(3-mercapto-2-methylpropanoyl)-L-valine
L-valine (88 g.) and sodium carbonate (40 g.) are dissolved in water (11.) and the solution is chilled in an ice bath with vigorous stirring. 3-Acetylthio-2-methylpropanoyl chloride (135 g.) and a solution of sodium carbonate (120 g.) in 500 ml. of water are added in five equal portions over a 15 minute period. After 1.5 hours the reaction mixture is extracted with ethyl acetate, the aqueous phase is acidified with concentrated hydrochloric acid and extracted with ethyl acetate. The organic phase is washed with water, dried over magnesium sulfate and concentrated to dryness to yield 190 g. of N-(3-acetylthio-2-methylpropanoyl)-L-valine. The named product is obtained by following the procedure of Example 50.

reactant | L-valine | 88 g | N[C@@H](C(C)C)C(=O)O | C5H11NO2
reactant | sodium carbonate | 40 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3-Acetylthio-2-methylpropanoyl chloride | 135 g | C(C)(=O)SCC(C(=O)Cl)C | C6H9ClO2S
reactant | sodium carbonate | 120 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | N-(3-acetylthio-2-methylpropanoyl)-L-valine | C(C)(=O)SCC(C(=O)N[C@@H](C(C)C)C(=O)O)C | C11H19NO4S
solvent | water | O | H2O
product | N-(3-mercapto-2-methylpropanoyl)-L-valine | SCC(C(=O)N[C@@H](C(C)C)C(=O)O)C | C9H17NO3S
